US06350749B1
In a mixture of ethanol (200 ml) and toluene (600 ml) was dissolved 1-amino-5-(3-thienyl)cyclohexen-3-one (10 g), and to the solution were added 3-oxobutylaldehydedimethylacetal (17.4 g) and granulated potassium hydroxide (2.87 g). The mixture was stirred at 115° C. (bath temperature), and to the reaction solution were added granulated potassium hydroxide (590 mg), 30 minutes later; 1 hour later; and 1.5 hours later; respectively. The reaction solution was stirred at the same temperature for 1 hour and cooled. Under reduced pressure, the solvent was evaporated, and to the residue were added ethyl acetate (250 ml) and water (70 ml). The mixture was shaken, and the separated ethyl acetate layer was washed with water (40 ml, thrice) and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (EtOAc/hexane) and eluted with ethyl acetate/hexane to give 4-methyl-7-(3-thienyl)-5,6,7,8-tetrahydroquinolin-5-one (6.5 g) as pale yellow crystals.

reactant | 1-amino-5-(3-thienyl)cyclohexen-3-one | 10 g | NC1=CC(CC(C1)C1=CSC=C1)=O | C10H11NOS
reactant | potassium hydroxide | 2.87 g | [OH-].[K+]
reactant | potassium hydroxide | 590 mg | [OH-].[K+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 4-methyl-7-(3-thienyl)-5,6,7,8-tetrahydroquinolin-5-one | 6.5 g | CC1=CC=NC=2CC(CC(C12)=O)C1=CSC=C1 | C14H13NOS
